US08455477B2
4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (30.0 mg, 0.110 mmol), 2,3-dimethyl-pyridin-4-ylamine (26.9 mg, 0.220 mmol), N-[3-(dimethylamino)propyl]-N-ethylcarbodiimide hydrochloride (31.7 mg, 0.165 mmol), and 1H-1,2,3-benzotriazol-1-ol hydrate (16.9 mg, 0.110 mmol) were suspended in DMF (1 ml). Diispropylethylamine (0.058 ml, 0.331 mmol) was added and the reaction mixture was allowed to stir. After 2 h, N,N-dimethylpyridin-4-amine (13.5 mg, 0.110 mmol) was added and the mixture was stirred overnight. After 16 h, the reaction mixture was heated to 60° C. for 4 h, after which additional 2,3-dimethyl-pyridin-4-ylamine (26.9 mg, 0.220 mmol) was added and the mixture was heated to 70° C. overnight. The reaction mixture was diluted in DMSO/water and filter through a 45 μm filter. The filtrate was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA to give a solid that was contaminated with trace impurities. Additional purification by column chromatography on silica gel (methanol/ethyl acetate gradient) afforded (N-(2,3-dimethylpyridin-4-yl)-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide. 1H NMR (500 MHz, DMSO-d6) δ 9.68 (s, 1H); 8.83 (s, 1H); 8.41 (s, 1H); 8.37 (s, 1H); 8.19 (d, 1H); 8.10 (s, 1H); 7.82 (d, 1H); 7.28 (s, 1H); 4.13 (s, 3H); 3.88 (s, 3H); 2.47 (s, 3H); 2.24 (s, 3H). LRMS (ESI) calculated for C20H21N6O2 [M+H]+, 377.2; found 377.2.

reactant | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.110 mmol, 30.0 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C(=O)O | C13H12N4O3
reactant | 2,3-dimethyl-pyridin-4-ylamine | 0.220 mmol, 26.9 mg | CC1=NC=CC(=C1C)N | C7H10N2
reactant | 1H-1,2,3-benzotriazol-1-ol hydrate | 0.110 mmol, 16.9 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | 2,3-dimethyl-pyridin-4-ylamine | 0.220 mmol, 26.9 mg | CC1=NC=CC(=C1C)N | C7H10N2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | N,N-dimethylpyridin-4-amine | 0.110 mmol, 13.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMSO water | CS(=O)C.O
product | N-(2,3-dimethylpyridin-4-yl)-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | CC1=NC=CC(=C1C)NC(=O)C=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C20H20N6O2
